US05250528
To a mixture of 1-acetyl-4-aminopiperazine dihydrochloride (540 mg) and 4-fluorobenzenesulfonyl chloride (535 mg) in dichloromethane (5 ml) was added triethylamine (1.2 ml) in a few minutes with stirring in an ice bath. After stirring for half an hour at the same temperature, the mixture was washed with brine, dried, and concentrated in vacuo. The residue was crystallized from ethanol and recrystallized from a mixture of ethanol and diethyl ether to Yield N-(4-acetyl-1-piperazinyl)-4-fluorobenzenesulfonamide (360 mg) as white crystals.

reactant | 1-acetyl-4-aminopiperazine dihydrochloride | 540 mg | Cl.Cl.C(C)(=O)N1CCN(CC1)N
reactant | 4-fluorobenzenesulfonyl chloride | 535 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(4-acetyl-1-piperazinyl)-4-fluorobenzenesulfonamide | 360 mg | C(C)(=O)N1CCN(CC1)NS(=O)(=O)C1=CC=C(C=C1)F | C12H16FN3O3S
